US06908913B2
(1S,5R,6S)-2-[5-Chloro-7-[1-(3-sulfamoylaminopropyl)pyridinium-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (intramolecular salt) (Compound No. 133)
The title compound (64 mg) was prepared in the same manner as in steps a) and b) of Example 4, except that 218 mg of 4-nitrobenzyl (1S,5R,6S)-2-[5-chloro-7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate and 160 mg of 3-(4-nitrobenzyloxycarbonylaminosulfonyl)aminopropanol were used as the starting compounds.

reactant | 4-nitrobenzyl (1S,5R,6S)-2-[5-chloro-7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 218 mg | ClC1=NC(=C2SC(=CN21)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)C(=O)C=1C=NC=CC1 | C28H22ClN5O7S
reactant | 3-(4-nitrobenzyloxycarbonylaminosulfonyl)aminopropanol | 160 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NS(=O)(=O)NCCCO)C=C1 | C11H15N3O7S
product | (1S,5R,6S)-2-[5-Chloro-7-[1-(3-sulfamoylaminopropyl)pyridinium-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 64 mg | ClC1=NC(=C2SC(=CN21)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)C(=O)C=1C=[N+](C=CC1)CCCNS(N)(=O)=O | C24H25ClN6O7S2
